US08802659B2
methyl 3-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)-2-(hydroxymethyl)propanoate
Compounds (6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methanamine (311 mg, 1.0 mmol, 1.0 eq.) and methyl 2-(hydroxymethyl)acrylate (116 mg, 1.0 mmol, 1.0 eq.) was dissolved in MeOH (5 mL). The mixture was stirred at r.t. for 2 h. Then the mixture was concentrated and purified by silica gel column chromatography using DCM/CH3OH (10/1) to give product (250 mg, 58%) as a slight yellow oil. ESI-MS (M+H)+: 428.3. HPLC: 90.18%. 1H NMR (400 MHz, CDCl3) δ 7.68 (t, 2H), 7.63 (s, 1H), 7.37 (dd, 1H), 7.14-7.11 (m, 2H), 4.27-4.25 (m, 1H), 4.01-3.96 (m, 2H), 3.91 (s, 2H), 3.71 (s, 3H), 3.18-2.93 (AB, 2H), 2.73-2.71 (m, 1H), 2.28-2.25 (m, 2H), 1.90-1.87 (m, 2H), 1.45-1.40 (m, 2H), 1.25-1.09 (m, 3H), 0.89 (s, 9H).

reactant | (6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methanamine | 1.0 mmol, 311 mg, 1.0 eq. | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN | C21H29NO
reactant | methyl 2-(hydroxymethyl)acrylate | 1.0 mmol, 116 mg, 1.0 eq. | OCC(C(=O)OC)=C | C5H8O3
solvent | MeOH | 5 mL | CO | CH4O
product | methyl 3-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)-2-(hydroxymethyl)propanoate | 250 mg, 58% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNCC(C(=O)OC)CO | C26H37NO4
